US06359013B1
E-4-chlorostyryl benzyl sulfone
A solution of benzyl sulfonylacetic acid (0.01 mol) and 4-chlorobenzaldehyde (0.01 mol) was subjected to Procedure 1. The title compound was obtained in 78% yield.

reactant | benzyl sulfonylacetic acid | 0.01 mol | C(C1=CC=CC=C1)S(=O)(=O)CC(=O)O | C9H10O4S
reactant | 4-chlorobenzaldehyde | 0.01 mol | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | E-4-chlorostyryl benzyl sulfone | 78% yield | C(C1=CC=CC=C1)S(=O)(=O)\C=C\C1=CC=C(C=C1)Cl | C15H13ClO2S
